US09212196B2
Ethyl 2-(4-(bromomethyl)-2-fluoro-6-methoxyphenoxy)acetate
The compound was prepared according to general procedure G with ethyl 2-(2-fluoro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate (0.4 mmol) in dichloromethane (5 ml) and PBr3 (0.4 mmol). 67 mg of compound were obtained (54% yield). This compound was used without further purification. 1H NMR (250 MHz, CDCl3): δ 1.29 (t, J=7.0 Hz, 3H), 3.89 (s, 3H), 4.25 (q, J=7.0 Hz, 2H), 4.41 (s, 2H), 4.71 (s, 2H) 6.74 (m, 1H), 6.81 (m, 1H). MS (ESI): m/z 319.9 [M+H]+

reactant | ethyl 2-(2-fluoro-4-(hydroxymethyl)-6-methoxyphenoxy)acetate | 0.4 mmol | FC1=C(OCC(=O)OCC)C(=CC(=C1)CO)OC | C12H15FO5
reactant | PBr3 | 0.4 mmol | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl 2-(4-(bromomethyl)-2-fluoro-6-methoxyphenoxy)acetate | 67 mg, 54% yield | BrCC1=CC(=C(OCC(=O)OCC)C(=C1)OC)F | C12H14BrFO4
